US05854245
To a 200 mL round bottomed flask was added 1-nitrophenylpiperazine (5.01 g, 24.2 mmol), di-tert-butyldicarbonate (5.85 g, 26.8 mmol), triethylamine (3.97 mL, 27.8 mmol), and dry THF (100 mL). This solution was heated at reflux for 18 h. The mixture was cooled to room temperature and the solvents were removed in vacuo. The residue was dissolved in EtOAc and washed with 10% aqueous citric acid, H2O, and brine. Drying (MgSO4), filtration, and removal of the solvent in vacuo gave 7.7 g of 1-nitrophenyl-4-(1,1-dimethylethoxycarbonyl)piperazine as a yellow solid.

reactant | 1-nitrophenylpiperazine | 24.2 mmol, 5.01 g | [N+](=O)([O-])C1(CC=CC=C1)N1CCNCC1 | C10H15N3O2
reactant | di-tert-butyldicarbonate | 26.8 mmol, 5.85 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 27.8 mmol, 3.97 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-nitrophenyl-4-(1,1-dimethylethoxycarbonyl)piperazine | 7.7 g | [N+](=O)([O-])C1(CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O4
